US04454327
A solution of 160 g of crude γ-carbomethoxyethyl-γ-nitropimelic acid dimethyl ester in 800 ml of methanol is hydrogenated at approximately 50 psi using 2 g of 20% Pd/C as catalyst. The resulting slurry is filtered to remove the catalyst and the filtrate is concentrated at reduced pressure to yield crude 5-oxo-2,2-pyrrolidinedipropanoic acid methyl ester and 5-oxo-2,2-pyrrolidinedipropionic acid monomethyl ester. The crude esters are dissolved in 100 ml of methanol and 100 ml of water and are treated with 120 g of 50% sodium hydroxide solution. The reaction mixture is stirred and is heated to 100° C. with distillation of methanol.

reactant | γ-carbomethoxyethyl-γ-nitropimelic acid dimethyl ester | 160 g | COC(CCC(CCC(=O)OC)([N+](=O)[O-])CCC(=O)OC)=O | C13H21NO8
solvent | methanol | 800 ml | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 5-oxo-2,2-pyrrolidinedipropionic acid monomethyl ester | COC(CCC1(NC(CC1)=O)CCC(=O)O)=O | C11H17NO5
